US07115600B2
4-(3-Pyrrolidin-1-ylmethyl-cyclobutyl)-benzylamine
To a stirring soluiont of Example 213 (4-(1-Hydroxy-3-pyrrolidin-1-ylmethyl-cyclobutyl)-benzonitrile) (500 mg, 1.9 mmol) in 20 mL of each MeOH and EtOH was added methanesulfonic acid (1.3 mL, 19.5 mmol), followed by 125 mg of 10% palladium/carbon. The reaction vessel was purged several times with N2 and then pressurized with 45 psi H2. After 1 h the reaction mixture was purged with N2 filtered through a plug of Celite and concentrated under reduced pressure. This mixture was re-dissolved in EtOH (20 mL) then 10% Pd/C (125 mg) was added. As before the reaction vessel was purged several times with N2, pressurized with 45 psi H2 and then heated to 50° C. After 2 hours the reaction mixture was purged with N2, filtered through a plug of Celite, and concentrated under reduced pressure to yield viscous oil. This oil was taken up in MeOH and solid NaOH (780 mg, 19.5 mmol.) was added. This mixture was stirred overnight. The solid were then filtered off and the filtrate was concentrated. The HCl salt was made by the first dissolving the residual compound in EtOAc and then a solution of HCl (2N in EteO) was added. The solids was collected and dried under reduced pressure. Purification of this material was accomplished by dry pack method flash column chromatography using a 40 g ISCO column, eluting with a gradient of 10%–40% MeOH/CH2Cl2 with 0.2% NH4OH. The product containing fractions were collected and concentrated to give the title compound (350 mg, 74% yield) as a colorless solid. The HCl salt of the title compound was made treating the title compound in EtOAc with a solution of HCl (2N in Et2O).

reactant | 4-(1-Hydroxy-3-pyrrolidin-1-ylmethyl-cyclobutyl)-benzonitrile | OC1(CC(C1)CN1CCCC1)C1=CC=C(C#N)C=C1 | C16H20N2O
reactant | EtOH | CCO | C2H6O
reactant | methanesulfonic acid | 19.5 mmol, 1.3 mL | CS(=O)(=O)O | CH4O3S
reactant | NaOH | 19.5 mmol, 780 mg | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
catalyst | palladium/carbon | 125 mg | [Pd] | Pd
product | 4-(3-Pyrrolidin-1-ylmethyl-cyclobutyl)-benzylamine | 350 mg, 74% yield | N1(CCCC1)CC1CC(C1)C1=CC=C(CN)C=C1 | C16H24N2
